US06716861B2
tert-butyl (3R)-3-(3-{[bis(2-methoxyethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (500 mg, 0.99 mmol) and bis-(2-methoxyethyl)amine (280 μl, 1.98 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.99 mmol, 500 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | bis-(2-methoxyethyl)amine | 1.98 mmol, 280 μl | COCCNCCOC | C6H15NO2
product | tert-butyl (3R)-3-(3-{[bis(2-methoxyethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate | COCCN(CCOC)CC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C25H45N3O5
